US08686005B2
4-Benzyloxy-2-hydroxy-3-methyl-benzaldehyde.
A mixture of 2,4-dihydroxy-3-methyl-benzaldehyde (3.31 g, 21.8 mmol), benzylbromide (4.09 g, 23.9 mmol), NaHCO3 (5.49 g, 65.4 mmol), 1,4-dioxane (30 mL) and water (12 mL) was stirred at 60° C. for overnight. Then the reaction mixture was cooled to RT, water (100 mL) was added, extracted with EtOAc (2×200 mL). The extract was dried over Na2SO4, evaporated. The residue was purified on SiO2 (25 g) column, hexane-EtOAc (0 to 5%). Yield 1.57 g (6.48 mmol, 29%) as off-white solid.

reactant | 2,4-dihydroxy-3-methyl-benzaldehyde | 21.8 mmol, 3.31 g | OC1=C(C=O)C=CC(=C1C)O | C8H8O3
reactant | benzylbromide | 23.9 mmol, 4.09 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaHCO3 | 65.4 mmol, 5.49 g | C(=O)(O)[O-].[Na+]
reactant | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
solvent | water | 12 mL | O | H2O
product | 4-Benzyloxy-2-hydroxy-3-methyl-benzaldehyde | C(C1=CC=CC=C1)OC1=C(C(=C(C=O)C=C1)O)C | C15H14O3
